US06114391
a) Preparation of 5,6-dimethoxy-2-hydroxyimino-indanone
5,6-Dimethoxy-1-indanone (0.078 moles, 15 g) is dissolved in absolute ethanol (550 ml), thermostated at 50° C., and added with isoamyl nitrite (0.086 moles, 11.9 ml) and conc. HCl (11.9 ml). After a few minutes the product precipitates. The reaction is kept at 50° C. for further 3 hours, then cooled at r.t. and the solid is filtered washing with absolute ethanol (50 ml) and ethyl ether (100 ml). The product is dried in oven under vacuum at r.t. Yield: 16.3 g (94.4%)

reactant | 5,6-Dimethoxy-1-indanone | 0.078 moles, 15 g | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | isoamyl nitrite | 0.086 moles, 11.9 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | HCl | 11.9 ml | Cl | ClH
solvent | ethanol | 550 ml | C(C)O | C2H6O
product | 5,6-dimethoxy-2-hydroxyimino-indanone | COC=1C=C2CC(C(C2=CC1OC)=O)=NO | C11H11NO4
